US05302718
2-Hydroxy-5-[[4 -[(5-methyl-3-isoxazolyl)aminosulfonyl]phenyl]-ethynyl]benzoic acid
Ethyl 2-hydroxy-5-[[4-[(5-methyl-3-isoxazolyl)aminosulfonyl]phenyl]ethynyl]benzoate (1.5 g) was added to a boiling solution of potassium hydroxide (6 g, 92 mmol) in water (100 ml). After 5 min, ethanol (25 ml) was added and the solution acidified with formic acid. The precipitate was collected by filtration, washed with water and dried. Yield 1.4 g, quantitative.

reactant | Ethyl 2-hydroxy-5-[[4-[(5-methyl-3-isoxazolyl)aminosulfonyl]phenyl]ethynyl]benzoate | 1.5 g | OC1=C(C(=O)OCC)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NOC(=C1)C | C21H18N2O6S
reactant | potassium hydroxide | 92 mmol, 6 g | [OH-].[K+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | formic acid | C(=O)O | CH2O2
solvent | water | 100 ml | O | H2O
product | 2-Hydroxy-5-[[4 -[(5-methyl-3-isoxazolyl)aminosulfonyl]phenyl]-ethynyl]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NOC(=C1)C | C19H14N2O6S
